US07384930B2
(S)-4-Chloro-9-neopentyl-7-(2-oxo-2-(4-(3-oxo-3,4-dihydroisoquinolin-2(1H)-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
Title compound was prepared from 2-(piperidin-4-yl)-1,2-dihydroisoquinolin-3(4H)-one hydrochloride in a manner analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Material was obtained as yellow solid in 35% yield. MS m/e (M+H)+=576.2. 1H NMR (500 MHz, DMSO-D6): δ=13.55 (s, 1H), 8.37 (s, 1H), 7.29 (s, 1H), 7.23 (dd, J1=7.63, J2=6.10, 4H), 5.37 (dd, J1=16.48, J2=7.63, 1H), 4.64 (d, J=17.70, 2H), 4.48 (s, 1H), 4.38 (s, 2H), 4.09 (m, 1H), 3.57 (m, 1H), 3.54 (s, 2H), 3.11 (m, 3H), 3.00 (m, 2H), 2.89 (m, 1H), 2.61 (m, 1H), 2.36 (m, 1H), 1.54 (m, 2H), 0.74 (d, J=28.08, 9H).

reactant | 2-(piperidin-4-yl)-1,2-dihydroisoquinolin-3(4H)-one hydrochloride | Cl.N1CCC(CC1)N1CC2=CC=CC=C2CC1=O
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-Chloro-9-neopentyl-7-(2-oxo-2-(4-(3-oxo-3,4-dihydroisoquinolin-2(1H)-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 35% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2CC1=CC=CC=C1CC2=O)=O)=O)CC(C)(C)C | C32H38ClN5O3
